US08207208B2
Step A: dimethyl (3S,3aS,6R,6aS)-6-(nitrooxy)hexahydrofuro[3,2-b]furan-3-yl phosphate
Trimethyl phosphite (2.95 mL, 25.0 mmol) was added dropwise over ca. 1 hour to a stirred 0° C. mixture of isosorbide-5-mononitrate (3.82 g, 20.0 mmol) and carbon tetrabromide (7.30 g, 22.0 mmol) in pyridine (10 mL), and the mixture was stirred at room temperature for 3 hours. The reaction was partitioned between 1M hydrochloric acid and diethyl ether/ethyl acetate (1:1). The aqueous phase was extracted with diethyl ether. The combined organic extracts were washed with saturated aqueous sodium hydrogen carbonate and brine, dried (sodium sulfate), filtered and concentrated in vacuo. Chromatography over silica eluting with 50-100% ethyl acetate/hexane afforded the title compound as an orange solid. 1H NMR (500 MHz, CD3OD) δ 5.46 (td, J=5.5, 2.2 Hz, 1H), 5.02 (t, J=5.3 Hz, 1H), 4.82 (dd, J=6.8, 2.7 Hz, 1H), 4.58 (d, J=5.1 Hz, 1H), 4.10 (d, J=10.7 Hz, 1H), 3.99 (dd, J=11.5, 2.1 Hz, 1H), 3.91 (dd, J=11.4, 5.2 Hz, 1H), 3.88 (dt, J=11.0, 2.4 Hz, 1H), 3.80 (d, J=2.7 Hz, 3H), 3.78 (d, J=2.7 Hz, 3H); LC-MS: m/z 300.0 (M+H).

reactant | Trimethyl phosphite | 25.0 mmol, 2.95 mL | P(OC)(OC)OC | C3H9O3P
reactant | isosorbide-5-mononitrate | 20.0 mmol, 3.82 g | C1[C@@H]([C@@H]2[C@H](O1)[C@@H](CO2)O[N+](=O)[O-])O | C6H9NO6
reactant | carbon tetrabromide | 22.0 mmol, 7.30 g | C(Br)(Br)(Br)Br | CBr4
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | dimethyl (3S,3aS,6R,6aS)-6-(nitrooxy)hexahydrofuro[3,2-b]furan-3-yl phosphate | P(=O)(OC)(OC)O[C@@H]1[C@@H]2[C@H](OC1)[C@@H](CO2)O[N+](=O)[O-] | C8H14NO9P
